US07429594B2
2-Chloro-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one
A suspension of 2-hydroxy-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one (10.0 g, 30.4 mmol) and phosphorous oxychloride (250 mL, 3 mol) was heated to 105° C. for 6 h to form a solution. Monitoring reaction by HPLC showed ˜90% conversion. The reaction solution was cooled and the solvent removed under reduced pressure. Foam residue was dissolved in 500 mL 5% ethanol/chloroform. The organic layer was washed with 100 mL water three times and once with 100 mL 5% NaHCO3. Organic dried over magnesium sulfate, then dried onto 30 g of silica. Final product purified on 400 g silica eluting with 0 to 2.5% methanol/dichloromethane to give a yellow solid. M+1=348.

reactant | 2-hydroxy-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | 30.4 mmol, 10.0 g | OC1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1 | C20H15N3O2
reactant | phosphorous oxychloride | 3 mol, 250 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-3-methyl-5-naphthalen-2-yl-6-pyridin-4-yl-3H-pyrimidin-4-one | ClC1=NC(=C(C(N1C)=O)C1=CC2=CC=CC=C2C=C1)C1=CC=NC=C1 | C20H14ClN3O
